US07465730B2
Utilizing the general procedure outlined in EXAMPLE 1, 3-acetyl-2,5-dimethyl-1-(4-ethoxyphenyl)pyrrole (771 mg, 3.0 mmol) and methyl 5-chloro-5-oxovalerate (0.63 mL, 4.5 mmol) reacted to give 5-[4-acetyl-2,5-dimethyl-1-(4-ethoxyphenyl)-1H-pyrrol-3-yl]-5-oxo-pentanoic acid methyl ester as a white solid: 1H NMR (CDCl3, 500 MHz) δ 7.05 (d, 2H), 6.98 (d, 2H), 4.08 (q, 2H), 3.65 (s, 3H), 2.75 (t, 2H), 2.41 (s, 3H), 2.40 (t, 2H), 2.11 (s, 3H), 2.01 (s, 3H), 2.00 (quintet, 2H), 1.45 (t, 3H); MS (ESI) 386 (M+H)+.

reactant | 3-acetyl-2,5-dimethyl-1-(4-ethoxyphenyl)pyrrole | 3.0 mmol, 771 mg | C(C)(=O)C1=C(N(C(=C1)C)C1=CC=C(C=C1)OCC)C | C16H19NO2
reactant | methyl 5-chloro-5-oxovalerate | 4.5 mmol, 0.63 mL | ClC(CCCC(=O)OC)=O | C6H9ClO3
product | 5-[4-acetyl-2,5-dimethyl-1-(4-ethoxyphenyl)-1H-pyrrol-3-yl]-5-oxo-pentanoic acid methyl ester | COC(CCCC(=O)C1=C(N(C(=C1C(C)=O)C)C1=CC=C(C=C1)OCC)C)=O | C22H27NO5
